US07405299B2
B. Preparation of 6-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-isoquinoline
Dissolve 6-iodoisoquinoline (0.085 g, 0.333 mmol) and 2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid (Preparation 2; 0.077 g, 0.317 mmol) in dioxane (2.5 mL). Add 5M aqueous potassium carbonate (0.667 mL, 3.33 mmol) followed by triphenylphosphine (5.2 g, 0.020 mmol) and tris(dibenzylidineacetone)dipalladium (18 mg, 0.020 mmol). Reflux the mixture for 2 h and cool to room temperature. Load the reaction mixture on to a cartridge containing SCX resin (5 g) and wash the resin sequentially with 1 volume dichloromethane, 1 volume methanol, and 1 volume methanol containing 2N ammonia. Remove the organic solvents under reduced pressure. Chromatograph on 15 g silica gel eluting with 5% methanol in ethyl acetate to provide 0.053 g (48%) of the title compound as a tan solid.

reactant | 6-iodoisoquinoline | 0.333 mmol, 0.085 g | IC=1C=C2C=CN=CC2=CC1 | C9H6IN
reactant | 2-(6-methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazole-3-boronic acid | 0.317 mmol, 0.077 g | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)B(O)O | C12H14BN3O2
reactant | potassium carbonate | 3.33 mmol, 5M, 0.667 mL | C([O-])([O-])=O.[K+].[K+]
reactant | triphenylphosphine | 0.020 mmol, 5.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
product | 6-[2-(6-Methyl-pyridin-2-yl)-5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-3-yl]-isoquinoline | 0.053 g, 48% | CC1=CC=CC(=N1)C=1C(=C2N(N1)CCC2)C=2C=C1C=CN=CC1=CC2 | C21H18N4
